US07528163B2
N-(Cyclopropylmethyl)-2-[3-(2,2-diethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-propylacetamide
To a solution of 28.3 mg [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid in 1 mL DMF was added 23.0 mg HOBt, 17.0 mg N-propylcyclopropanemethylamine, 38.3 mg EDC, and 45.2 mg DIEA in that order. The mixture was stirred at room temperature over night and purified by RP-HPLC using 60-100% MeCN gradient. The pure product fractions were pooled and lyophilized to give the title compound as white solid. LC-MS: 4.07 min. (m/Z=386.3, 408.3).

reactant | [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid | 28.3 mg | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O)(C)C | C15H18N2O4
reactant | HOBt | 23.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-propylcyclopropanemethylamine | 17.0 mg | C(CC)NCC1CC1 | C7H15N
reactant | DIEA | 45.2 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 38.3 mg
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(Cyclopropylmethyl)-2-[3-(2,2-diethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-propylacetamide | C1(CC1)CN(C(CN1N=C(C2=CC=C(C=C12)OC)C(C(C)(CC)CC)=O)=O)CCC | C24H35N3O3
